US04748163
2-Trifluoromethyl-1H-benzimidazole-5-carboxylic acid (14a)
50 g (0.329 mol) of 3,4-diaminobenzoic acid, dissolved in 300 ml of 4N HCl, are heated under reflux with 40.5 g (0.355 mol) of TFA for 5 hours. The solution is then cooled to 0° C., and the precipitated product is filtered off with suction, washed with water and dried at 40° C. in vacuo.

reactant | 3,4-diaminobenzoic acid | 0.329 mol, 50 g | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
reactant | TFA | 0.355 mol, 40.5 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | HCl | 4N, 300 ml | Cl | ClH
product | 2-Trifluoromethyl-1H-benzimidazole-5-carboxylic acid | FC(C1=NC2=C(N1)C=CC(=C2)C(=O)O)(F)F | C9H5F3N2O2
